US07026331B2
A mixture of 4-isopropylphenylhydrazine hydrochloride (660 mg, 3.55 mmol) and 4-phthalimidobutanal diethyl acetal (1.15 g, 3.95 mmol) in Ethanol (EtOH; 30 ml) was heated at 60° C. to 65° C. for 1 h with water (0.050 ml). The mixture was then treated with concentrated HCl (0.50 ml) and refluxed for 14 h. After concentrating the reaction, the residue was partioned in methylene chloride and saturated aqueous NaHCO3. The aqueous solution was extracted with methylene chloride (3 times) and the combined organic solutions were dried (MgSO4) and concentrated to give after chromatography (4:1 hexane-ethyl acetate) on silica gel 146 mg of product. The above product was treated with hydrazine hydrate (1 ml) in EtOH (4 ml) and water (1 ml) and stirred at RT overnight. After concentrating the reaction to an aqueous mixture, the product was extracted with methylene chloride (3 times). The combined organic solution was dried (MgSO4) and concentrated. The residue was redissolved in methylene chloride and treated with 1M HCl in ether. The precipitate was collected and washed with ether and hexane and dried to provide 102 mg of 6-isopropyltryptamine hydrochloride salt. This tryptamine obtained above was transformed into 7-isopropyl-β-carboline according to the procedure used in example 3. The hydrochloride salt was obtained by treating a solution of 7-Isopropyl-β-carboline in methylene chloride with 1M HCl in ether and concentrating. The residue was triturated with (1:1) methylene chloride-hexane to give 15 mg of 7-isopropyl-β-carboline hydrochloride.

reactant | 4-isopropylphenylhydrazine hydrochloride | 3.55 mmol, 660 mg | Cl.C(C)(C)C1=CC=C(C=C1)NN
reactant | 4-phthalimidobutanal diethyl acetal | 3.95 mmol, 1.15 g | C(C)OC(CCCN1C(C=2C(C1=O)=CC=CC2)=O)OCC | C16H21NO4
reactant | HCl | 0.50 ml | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | hydrazine hydrate | 1 ml | O.NN
solvent | Ethanol | 30 ml | C(C)O | C2H6O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | EtOH | 4 ml | CCO | C2H6O
solvent | water | 1 ml | O | H2O
solvent | water | 0.050 ml | O | H2O
product | 6-isopropyltryptamine hydrochloride salt | 102 mg | Cl.C(C)(C)C=1C=C2NC=C(CCN)C2=CC1 | InChI=1S/C13H18N2.ClH/c1-9(2)10-3-4-12-11(5-6-14)8-15-13(12)7-10;/h3-4,7-9,15H,5-6,14H2,1-2H3;1H
